US08110575B2
Step 2: (2,3-dihydro-1H-indol-3-yl)-methanol
0.79 g (3.5 mmol) ethyl 2,3-dihydro-1H-indole-3-carboxylate were added batchwise at RT to 7.8 mL (7.8 mmol) of a 1 molar lithium aluminium hydride-THF solution in 40 mL THF and the mixture was refluxed for 1 h. Then the reaction mixture was decomposed with water, while cooling, the precipitate formed was filtered off and the filtrate was evaporated down.

reactant | ethyl 2,3-dihydro-1H-indole-3-carboxylate | 3.5 mmol, 0.79 g | N1CC(C2=CC=CC=C12)C(=O)OCC | C11H13NO2
reactant | lithium aluminium hydride THF | 1 molar | [H-].[Al+3].[Li+].[H-].[H-].[H-].C1CCOC1
reactant | water | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (2,3-dihydro-1H-indol-3-yl)-methanol | N1CC(C2=CC=CC=C12)CO | C9H11NO
